US07037921B2
3-(4-Chloro-pyridin-3-yl)-5-methyl-isoxazole-4-carboxylic acid
Combine 3-(4-chloro-pyridin-3-yl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester (0.90 g, 0.003 mol) with aqueous sodium hydroxide (2N, 7.0 mL, 0.014 mol), ethanol (2 mL), and tetrahydrofuran (2 mL) and stir overnight at ambient temperature. Adjust the aqueous mixture to approx. pH 2.5 with aqueous hydrochloric acid. Extract with ethyl acetate and dry the combined extracts over sodium sulfate and concentrate in vacuo. Drying nets the desired isoxazole acid as a light solid (0.78 g, 97%). MS(ES): (M+1)+ 239.0, 241.0 m/z.

reactant | 3-(4-chloro-pyridin-3-yl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester | 0.003 mol, 0.90 g | C(C)OC(=O)C=1C(=NOC1C)C=1C=NC=CC1Cl | C12H11ClN2O3
reactant | sodium hydroxide | 0.014 mol, 2N, 7.0 mL | [OH-].[Na+]
reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-(4-Chloro-pyridin-3-yl)-5-methyl-isoxazole-4-carboxylic acid | ClC1=C(C=NC=C1)C1=NOC(=C1C(=O)O)C | C10H7ClN2O3
